US05380713
Nα [N-(3-(3-Pyridyl)propanoyl)-L-Prolyl]-L-arginine aldehyde Dihydrochloride
Palladium on carbon (10%, 93 mg) was added to a well-stirred, nitrogen-blanketed mixture of N60 [N-(3-(3-pyridyl)propanoyl)-L-prolyl]-Nδ -benzyloxycarbonyl-L-arginine aldehyde (935.0 mg, 1.79 mmol) and 1N hydrochloric acid (0.90 mL) in tetrahydrofuran (20 mL). The mixture was stirred at room temperature for about 5 minutes before the nitrogen blanket was removed and replaced with hydrogen at one atmosphere. After about 5 hours, an additional equivalent of 1N hydrochloric acid (0.90 mL) was added and the mixture was suction-filtered through Celite and concentrated down to dryness to give 800.1 mg (97%) of the title compound as a dense, white solid, m.p. 126°-144° C. (sealed tube, decomposes between 190°-210° C.); 1H NMR (D2O) δ 8.69 (s, 1H), 8.65 (d, J=5.9 Hz, 1H), 8.53 (d, J=7.7 Hz, 1H), 8.01 (t, J=6.1 Hz, 1H), 4.38-4.34 (m, 1H), 4.11-3.81 (series of m, 1H), 3.63-3.51 (m, 3H), 3.18-3.14 (m, 2H), 2.95-2.80 (m, 2H), 2.27-2.21 (m, 2H), 2.00-1.50 (series of m, 5H); 13C NMR (D2O) ppm 176.75, 176.00, 175.23, 174.64, 156.55, 149.10, 143.54, 142.65, 140.87, 129.02, 124.66, 118.79, 95.08, 92.48, 79.24, 78.46, 62.78, 62.54, 62.30, 55.89, 51.43, 50.00, 49.34, 45.53, 42.79, 41.94, 35.72, 31.91, 31.81, 28.92, 27.56, 26.38, 25.98, 24.82, 24.62, 22.56; IR (KBr, cm-1) 3344-2876, 1654, 1554, 1448, 1248, 1000, 682. MS m/z (MH+ -2HCL) calcd 89.2301, obsd 389.2305.

reactant | [N-(3-(3-pyridyl)propanoyl)-L-prolyl]-Nδ -benzyloxycarbonyl-L-arginine aldehyde | 1.79 mmol, 935.0 mg | N1=CC(=CC=C1)CCC(=O)N1[C@H](C(=O)N[C@@H](CCCN(C(N)=N)C(=O)OCC2=CC=CC=C2)C=O)CCC1 | C27H34N6O5
reactant | hydrochloric acid | 1N, 0.90 mL | Cl | ClH
catalyst | Palladium on carbon | 93 mg | [Pd] | Pd
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Nα [N-(3-(3-Pyridyl)propanoyl)-L-Prolyl]-L-arginine aldehyde Dihydrochloride | 800.1 mg, 97% | Cl.Cl.N1=CC(=CC=C1)CCC(=O)N1[C@H](C(=O)N[C@@H](CCCNC(N)=N)C=O)CCC1 | InChI=1S/C19H28N6O3.2ClH/c20-19(21)23-10-2-5-15(13-26)24-18(28)16-6-3-11-25(16)17(27)8-7-14-4-1-9-22-12-14;;/h1,4,9,12-13,15-16H,2-3,5-8,10-11H2,(H,24,28)(H4,20,21,23);2*1H/t15-,16-;;/m0../s1
